.options savecurrents

* sources
Va 2 0 5.07072749268
Id 7 6 0.00100018604098

* resistances
R1 3 2 1020.51254911
R2 4 3 2071.33294635
R3 3 5 3106.50554224
R4 0 5 4019.29064552
R5 5 6 3084.4359874
R6 8 0 2012.87586659
R7 7 8 1021.50900709

*conditional sources
*voltage
B1 5 7 V = 8050.67652194 * v(8) / 2012.87586659
*current
G1 6 4 3 5 0.00726322828319

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
*print Vcc
*print @Q1[ic]
*print @Rf[i]

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
